.INCLUDE model28nm.spi
.INCLUDE 6T_cell_noise.spi

X1    WL BL_Bad nBL_bad  1 0 6T_cell_noise M = 31
X2    0  BL     nBL      1 0 6T_cell_noise M = 255
Xcell WL BL     nBL      1 0 6T_cell_noise

*
* 1v between VDD (1) and GND (0)
*
VCC 1 0 DC 1.0V
.IC V(BL) = 1.0V
.IC V(nBL) = 1.0V
.IC V(BL_Bad) = 1.0V
.IC V(nBL_Bad) = 0.0V
.IC V(Xcell.Q) = 1.0V
.IC V(Xcell.QB) = 0.0V
.IC V(Xcell.QN) = 1.0V
.IC V(Xcell.QBN) = 0.0V

.IC V(X1.Q) = 1.0V
.IC V(X1.QB) = 0.0V
.IC V(X1.QN) = 1.0V
.IC V(X1.QBN) = 0.0V
.IC V(X2.Q) = 1.0V
.IC V(X2.QB) = 0.0V
.IC V(X2.QN) = 1.0V
.IC V(X2.QBN) = 0.0V

*
* Input wave
*
*VWL WL 0 DC 0V
EVNOISER Xcell.Q Xcell.QN VOL='V(Xcell.QB)-V(Xcell.QBN)' 

* Part Graphic 
*VVNOISEL Xcell.QB Xcell.QBN pwl(0ns 0 10ns 0 15ns 1.0 20ns 1.0 25ns 0) 

Vin0 WL 0 pwl(0ns 0 5ns 0 10ns 1.0 20ns 1.0 25ns 0)


* Part Analytic 
VVNOISE Xcell.QBN Xcell.QB DC 0V

.TRAN 1ns 30ns

.MEASURE TRAN SNM FIND V(Xcell.QN) WHEN V(Xcell.Q) = 0V TD=10ns

* Part Analytic 
.control 
destroy all 
let testing_noise=-0.2
* loop to test values below 1.0V 
while (testing_noise<-0.1) 
 echo "**********************************************************"
 echo "**********************************************************" 
 echo "Testing robustness for a noise voltage of: $&testing_noise" 
 alter vvnoise testing_noise 
 run 
 echo "**********************************************************" 
 echo "**********************************************************" 
 let testing_noise=testing_noise+0.01 
end 
.endc

* plot V(Xcell.Q) V(Xcell.QBN) V(Xcell.QB) V(Xcell.QN)
* plot V(Xcell.QBN) V(Xcell.QB)


.END